US04153716
To a solution of 5.5 g. (0.02 mole) of 5-bromo-3-phenylbenzofuran in tetrahydrofuran is added 0.5 g. (0.02 mole) of magnesium, and the mixture is heated at its reflux temperature for three hours. After cooling to 0° C., 3.4 g. of undecyl aldehyde is added. After stirring for 30 minutes at room temperature, the solution is added to ammonium chloride solution. Evaporation provides a residue which is mixed with diethyl ether and water. The ether layer is separated, washed with saturated sodium chloride solution, dried and evaporated. The resulting oil is dissolved in carbon tetrachloride and eluted from a silica gel column with carbon tetrachloride, then with dichloromethane. The later fractions are evaporated to provide 5-(α-hydroxyundecyl)-3-phenylbenzofuran which is dissolved in dichloromethane.

reactant | 5-bromo-3-phenylbenzofuran | 0.02 mole | BrC=1C=CC2=C(C(=CO2)C2=CC=CC=C2)C1 | C14H9BrO
reactant | magnesium | 0.02 mole | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(α-hydroxyundecyl)-3-phenylbenzofuran | OC(CCCCCCCCCC)C=1C=CC2=C(C(=CO2)C2=CC=CC=C2)C1 | C25H32O2
